US09376443B2
3-{6-[1-Hydroxy-1-cyclobutyl]pyridin-2-ylmethyl}-7-phenyl-3H-[1,2,3]triazolo[4,5-d]pyrimidin-5-ylamine
Prepared from 7-chloro-3-{6-[1-hydroxy-1-cyclobutyl]pyridin-2-ylmethyl}-3H-[1,2,3]triazolo[4,5-d]pyrimidin-5-ylamine and phenylboronic acid by the method described in Example 7 to give the title compound (0.03 g).

reactant | 7-chloro-3-{6-[1-hydroxy-1-cyclobutyl]pyridin-2-ylmethyl}-3H-[1,2,3]triazolo[4,5-d]pyrimidin-5-ylamine | ClC=1C2=C(N=C(N1)N)N(N=N2)CC2=NC(=CC=C2)C2(CCC2)O | C14H14ClN7O
reactant | phenylboronic acid | C1(=CC=CC=C1)B(O)O | C6H7BO2
product | 3-{6-[1-Hydroxy-1-cyclobutyl]pyridin-2-ylmethyl}-7-phenyl-3H-[1,2,3]triazolo[4,5-d]pyrimidin-5-ylamine | 0.03 g | OC1(CCC1)C1=CC=CC(=N1)CN1N=NC2=C1N=C(N=C2C2=CC=CC=C2)N | C20H19N7O
